US09334245B2
(2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid (100 mg, 242 μmol), HOBt (98 mg, 720 μmol), and EDCI (130 μL, 720 μmol) were dissolved in DCM and stirred for 15 minutes. Oxetan-3-ol (140 mg, 1.9 mmol) and 4-methylmorpholine (110 μL, 970 μmol) were added and the resulting mixture was stirred at room temperature for 2 hours. The reaction was quenched with water and the DCM layer was separated and concentrated. The product was then purified (Interchim reverse phase chromatography column) and dried under vacuum. The purified material was combined with MeCN (1 mL, 20 mmol) and 4 M HCl in dioxane (240 μL, 970 μmol) and the resulting mixture was stirred at room temperature for 1 hour. The solvent was removed to yield (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid oxetan-3-yl ester.

reactant | (2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid | 242 μmol, 100 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO5
reactant | HOBt | 720 μmol, 98 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 720 μmol, 130 μL | CCN=C=NCCCN(C)C | C8H17N3
reactant | Oxetan-3-ol | 1.9 mmol, 140 mg | O1CC(C1)O | C3H6O2
reactant | 4-methylmorpholine | 970 μmol, 110 μL | CN1CCOCC1 | C5H11NO
reactant | MeCN | 20 mmol, 1 mL | CC#N | C2H3N
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 970 μmol, 240 μL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid oxetan-3-yl ester | O1CC(C1)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O | C22H27NO4
